US04595690
Alternatively, benzyl ethers may be used to protect --OH groups. For example, 2,2-dimethyl-4,5-di(hydroxymethyl)-1,3-dioxolane (8 g, 0.2 mol) is heated at reflux with benzyl chloride (25 g, 0.2 mol) and K2CO3 (25 g, 0.2 mol) in 100 ml ethanol. The product is added to aqueous NaOH, extracted with ether, and purified by silica gel chromatography to yield 2,2-dimethyl-4-hydroxymethyl-5-benzyloxymethyl-1,3-dioxolane.

reactant | 2,2-dimethyl-4,5-di(hydroxymethyl)-1,3-dioxolane | 0.2 mol, 8 g | CC1(OC(C(O1)CO)CO)C | C7H14O4
reactant | benzyl chloride | 0.2 mol, 25 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 0.2 mol, 25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2-dimethyl-4-hydroxymethyl-5-benzyloxymethyl-1,3-dioxolane | CC1(OC(C(O1)CO)COCC1=CC=CC=C1)C | C14H20O4
